* core-mirror-sensitivity -- dVref/d(mirror ΔVgs) verification, plus
* saturation-headroom and amp tail_bias/ibias re-verification (issue #55)
*
* CORE RESIZED IN #61 -- RECORDS TAKEN BEFORE AND AFTER ARE NOT COMPARABLE.
* The bandgap_core copy embedded below carries #61's R1/R2 co-scaling: the
* PTAT resistor R2, the base summing resistor R1 and the 63 bandgap_trim
* unit segments are all scaled by k = 2, halving the design current
* I = dVBE/R2 while holding I*R1, the R1/R2 ratio and the trim step in
* volts (I*R_unit) fixed. See design/bandgap_core.sch's header and
* design/bandgap_error_budget.md Sec 5 for the derivation.
*
* design/bandgap_error_budget.md Sec 2.8 identified bandgap_core's own
* M1..M4/MC1..MC4 mirror/cascode mismatch as the largest unallocated term in
* the circuit-level untrimmed-accuracy Monte Carlo once #42 closed the
* amplifier's own budget. This bench measures the missing sensitivity
* directly, distinguishing the mechanisms the issue calls out:
*
*   - SERVOED legs (M1 vs M2): the amp forces sns1 = sns2, so a ΔVgs
*     mismatch between the two mirror devices feeding the sensed pair acts
*     like an equivalent input offset -- injected here as vos_m_servo, a
*     series source between "fb" and M2's own gate only. M1 gets its own
*     independent source (vos_m_sns1) rather than being hard-wired to fb,
*     so all four mirror devices are measured symmetrically: the budget in
*     design/bandgap_error_budget.md Sec 2.7 needs four independent
*     per-device sensitivities S1..S4 to RSS, not three plus an inferred
*     one. Measuring S1 also *tests* the common-mode-null argument the
*     budget relies on -- a ΔVgs shift common to all four gates is
*     electrically the same as shifting the amp output "fb" by the same
*     amount, which the servo absorbs, so S1+S2+S3+S4 must come out at
*     zero. tb.json checks that sum explicitly (dvref_dvos_m_sum) instead
*     of assuming it.
*   - UNSERVOED legs (M3 -> vref branch, M4 -> ibias branch): nothing
*     forces these legs' current to track the servoed pair except the
*     shared gate node and the cascode's own output-impedance shielding.
*     vos_m_vref and vos_m_ibias inject the same kind of series mismatch
*     source into M3's and M4's gates respectively.
*   - CASCODE-only mismatch (MC3 vs MC1): a ΔVgs mismatch between cascode
*     devices does not steer branch current directly (each cascode carries
*     whatever current its own mirror device below it sets) -- it only
*     perturbs the mirror-drain node voltage (d3), which then feeds back
*     through the mirror device's own finite output impedance. vos_mc_vref
*     isolates this weaker mechanism by injecting the mismatch source into
*     MC3's gate (relative to "casc") instead of M3's.
*
* All five offsets default to 0 V and are swept one at a time via five
* separate two-point .dc sweeps in the same deck (ngspice retains each as
* its own "dcN" plot, so a later sweep does not clobber an earlier one's
* result -- see the "measure" section of tb.json for the dcN.v(vref)[i]
* references).
*
* Netlist FRAGMENT for sim/harness (sim/README.md format): the harness
* supplies .include of the gf180mcu models, the corner .lib sections,
* .temp, the .control block and .end. Parameters available: vdd_val,
* vdd_nom, temp_c.
*
* bandgap_core is spelled out here (not taken from a DUT file) because the
* offset sources must tap gate nodes that are internal to it and not
* exposed on its 8-pin interface. bandgap_amp comes from the DUT manifest
* key (sim/dut/bandgap_amp.spice, generated from design/netlist/bandgap_amp.spice)
* so this bench always measures against the final, #42 amplifier.
*
* METHOD: same two-point DC linearisation sim/amp-offset-sensitivity uses --
* dVref/dVos = (vref(+2mV) - vref(-2mV)) / 4mV, well inside every injected
* leg's linear range. bandgap_startup is instantiated (not .ic-seeded) for
* the same reason sim/amp-offset-sensitivity's header explains: .ic is not
* honoured by ngspice's DC solve, and the real block does not have an
* independent bias forcing the intended solution without it.
*
* bandgap_core is NOT wrapped in its own .subckt here (unlike
* sim/amp-offset-sensitivity's copy) -- ngspice's `dc` analysis can only
* sweep a source that is a top-level circuit element, not one nested inside
* a subcircuit instance, and the four offset sources below must tap M2/M3/
* M4/MC3's gates, which are internal to bandgap_core and not on its 8-pin
* interface. The core is flattened directly into the top-level deck instead,
* using the same node names (vdd, sns1, sns2, 0=vss, fb, vref, ibias, casc)
* bandgap_top.spice ties it to, so it wires up identically either way.

XM1 d1 fbm1 vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
vos_m_sns1 fbm1 fb dc 0
XMC1 sns1 casc d1 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 0 0 sns1 pnp_05p00x05p00 m=1
XM2 d2 fbm2 vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 sns2 casc d2 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
vos_m_servo fbm2 fb dc 0
XR2 e2 sns2 0 ppolyf_u r_width=2u r_length=36.341871u m=1
XQ2 0 0 e2 pnp_10p00x10p00 m=1
XM3 d3 fbm3 vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 vref cascmc3 d3 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
vos_m_vref fbm3 fb dc 0
vos_mc_vref cascmc3 casc dc 0
XR1 e3 tn0 0 ppolyf_u r_width=2u r_length=460.701871u m=1
XQ3 0 0 e3 pnp_05p00x05p00 m=1
XM4 d4 fbm4 vdd vdd pfet_03v3 L=6u W=7.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 ibias casc d4 vdd pfet_03v3 L=6u W=7.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
vos_m_ibias fbm4 fb dc 0
XM5 ibias ibias 0 0 nfet_03v3 L=2u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB casc casc vdd vdd pfet_03v3 L=12u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB casc ibias 0 0 nfet_03v3 L=2u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XXTRIM tn0 vref 0 bandgap_trim

.subckt bandgap_trim bot top sub

.param trim_code=32

XRU0 bot tn1 sub ppolyf_u r_width=2u r_length=2.771871u m=1
RS0 tn1 bot {1e-3 + 1e12*(floor(trim_code/1)-2*floor(trim_code/2))} m=1
XRU1 tn1 u1_0 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU2 u1_0 tn2 sub ppolyf_u r_width=2u r_length=2.771871u m=1
RS1 tn2 tn1 {1e-3 + 1e12*(floor(trim_code/2)-2*floor(trim_code/4))} m=1
XRU3 tn2 u2_0 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU4 u2_0 u2_1 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU5 u2_1 u2_2 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU6 u2_2 tn3 sub ppolyf_u r_width=2u r_length=2.771871u m=1
RS2 tn3 tn2 {1e-3 + 1e12*(floor(trim_code/4)-2*floor(trim_code/8))} m=1
XRU7 tn3 u3_0 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU8 u3_0 u3_1 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU9 u3_1 u3_2 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU10 u3_2 u3_3 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU11 u3_3 u3_4 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU12 u3_4 u3_5 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU13 u3_5 u3_6 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU14 u3_6 tn4 sub ppolyf_u r_width=2u r_length=2.771871u m=1
RS3 tn4 tn3 {1e-3 + 1e12*(floor(trim_code/8)-2*floor(trim_code/16))} m=1
XRU15 tn4 u4_0 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU16 u4_0 u4_1 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU17 u4_1 u4_2 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU18 u4_2 u4_3 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU19 u4_3 u4_4 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU20 u4_4 u4_5 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU21 u4_5 u4_6 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU22 u4_6 u4_7 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU23 u4_7 u4_8 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU24 u4_8 u4_9 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU25 u4_9 u4_10 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU26 u4_10 u4_11 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU27 u4_11 u4_12 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU28 u4_12 u4_13 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU29 u4_13 u4_14 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU30 u4_14 tn5 sub ppolyf_u r_width=2u r_length=2.771871u m=1
RS4 tn5 tn4 {1e-3 + 1e12*(floor(trim_code/16)-2*floor(trim_code/32))} m=1
XRU31 tn5 u5_0 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU32 u5_0 u5_1 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU33 u5_1 u5_2 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU34 u5_2 u5_3 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU35 u5_3 u5_4 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU36 u5_4 u5_5 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU37 u5_5 u5_6 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU38 u5_6 u5_7 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU39 u5_7 u5_8 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU40 u5_8 u5_9 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU41 u5_9 u5_10 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU42 u5_10 u5_11 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU43 u5_11 u5_12 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU44 u5_12 u5_13 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU45 u5_13 u5_14 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU46 u5_14 u5_15 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU47 u5_15 u5_16 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU48 u5_16 u5_17 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU49 u5_17 u5_18 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU50 u5_18 u5_19 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU51 u5_19 u5_20 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU52 u5_20 u5_21 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU53 u5_21 u5_22 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU54 u5_22 u5_23 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU55 u5_23 u5_24 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU56 u5_24 u5_25 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU57 u5_25 u5_26 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU58 u5_26 u5_27 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU59 u5_27 u5_28 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU60 u5_28 u5_29 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU61 u5_29 u5_30 sub ppolyf_u r_width=2u r_length=2.771871u m=1
XRU62 u5_30 top sub ppolyf_u r_width=2u r_length=2.771871u m=1
RS5 top tn5 {1e-3 + 1e12*(floor(trim_code/32)-2*floor(trim_code/64))} m=1
.ends

.subckt bandgap_startup vdd vss fb casc ibias


XMSENSE det ibias vss vss nfet_03v3 L=2u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRPU det vdd vss ppolyf_u_1k r_width=2u r_length=4000u m=1
XMKFB fb det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMKCASC casc det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

vsup vdd 0 dc {vdd_val}
Xamp sns2 sns1 0 fb vdd ibias bandgap_amp
Xstart vdd 0 fb casc ibias bandgap_startup

.nodeset v(fb)=2.27 v(sns1)=0.72 v(sns2)=0.72 v(vref)=1.23 v(ibias)=0.75
+ v(casc)=1.75

* A final, unperturbed .op (all five vos_* sources at their own "dc 0"
* default) supplies the saturation-headroom and amp tail_bias/ibias
* operating-point measures in tb.json: AC#3 ("re-verify headroom across the
* full PVT grid ... including MCB's W/L and the amp's tail_bias/ibias
* operating point, which moves with any core resize"). Margin = Vds - Vdsat
* (PMOS: Vsd - Vdsat, both reported by ngspice as positive magnitudes for a
* device in saturation) -- must stay >= 0 at every corner for the device to
* remain in saturation.
